US04435503
Synthesis of 1-(2,5-dichlorophenyl)-3-methacryloylamino-2-pyrazolin-5-one [Coupler Monomer (8)]
30 g (0.12 mol) of 3-amino-1-(2,5-dichlorophenyl)-2-pyrazolin-5-one was dissolved in 250 ml of tetrahydrofuran to which were added 21 ml (0.27 mol) of pyridine and 2.5 ml of nitrobenzene. To the mixture there was further added dropwise 28.2 g (0.27 mol) of methacryloyl chloride while cooling with ice and the mixture was stirred for about 30 minutes. After adding 250 ml of water, the mixture was extracted with ethyl acetate and the extract was dried with anhydrous sodium sulfate. After distilling off the solvent at from 20° C. to 30° C. under a reduced pressure, the residual oily product was dissolved in a mixture of 360 ml of water and 200 ml of ethanol, to which was then added dropwise an aqueous solution containing 14.8 g (0.37 mol) of sodium hydroxide dissolved in 50 ml of water at room temperature. After stirring for 30 minutes, acetic acid was added to the mixture for neutralization and the crystals thus deposited were collected by filtration. By recrystallization from acetonitrile, 19.5 g (52% yield) of Coupler Monomer (8) was obtained.

reactant | 3-amino-1-(2,5-dichlorophenyl)-2-pyrazolin-5-one | 0.12 mol, 30 g | NC1=NN(C(C1)=O)C1=C(C=CC(=C1)Cl)Cl | C9H7Cl2N3O
reactant | pyridine | 0.27 mol, 21 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrobenzene | 2.5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | methacryloyl chloride | 0.27 mol, 28.2 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 0.37 mol, 14.8 g | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2,5-dichlorophenyl)-3-methacryloylamino-2-pyrazolin-5-one | 52% yield | ClC1=C(C=C(C=C1)Cl)N1N=C(CC1=O)NC(C(=C)C)=O | C13H11Cl2N3O2
